US04233333
(b) 4,5-Dimethyl-thieno[3,2-d]isothiazole-3(2H)-one-1,1-dioxide calcium salt
37 mgm (0.5 millimols) of calcium hydroxide and 217 mgm (1 millimol) of 4,5-dimethyl-thieno[3,2-d]isothiazole-3-(2H)-one-1,1-dioxide were added to 50 ml of boiling water. The virtually clear resulting solution was filtered and evaporated to 1 ml. 180 mg (76% of theory) of 4,5-dimethyl-thieno[3,2-d]-isothiazole-3(2H)-one-1,1-dioxide calcium salt crystallized out.

reactant | calcium hydroxide | 0.5 millimols | [OH-].[Ca+2].[OH-]
reactant | 4,5-dimethyl-thieno[3,2-d]isothiazole-3-(2H)-one-1,1-dioxide | 1 millimol | CC1=C(SC2=C1C(NS2(=O)=O)=O)C | C7H7NO3S2
solvent | water | 50 ml | O | H2O
product | 4,5-Dimethyl-thieno[3,2-d]isothiazole-3(2H)-one-1,1-dioxide calcium salt | [Ca].CC1=C(SC2=C1C(NS2(=O)=O)=O)C | InChI=1S/C7H7NO3S2.Ca/c1-3-4(2)12-7-5(3)6(9)8-13(7,10)11;/h1-2H3,(H,8,9);
